US04500526
B. 2-(Pyrrolidin-1-ylcarbonylamino)thiazolo[4,5-c]pyridine
A mixture of 2-phenoxycarbonylaminothiazolo[4,5-c]-pyridine (200 mg, 0.73 mmole) and pyrrolidine (0.3 ml) in DMF (2 ml) was heated at 70° C. for 30 minutes and evaporated in vacuo. The residue was triturated with ether to give 180 mg (98%) of the desired product. Mp. 218°~220° C.

reactant | 2-phenoxycarbonylaminothiazolo[4,5-c]-pyridine | 0.73 mmole, 200 mg | O(C1=CC=CC=C1)C(=O)NC=1SC2=C(C=NC=C2)N1 | C13H9N3O2S
reactant | pyrrolidine | 0.3 ml | N1CCCC1 | C4H9N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(Pyrrolidin-1-ylcarbonylamino)thiazolo[4,5-c]pyridine | 180 mg, 98% | N1(CCCC1)C(=O)NC=1SC2=C(C=NC=C2)N1 | C11H12N4OS
